US07153850B2
Potassium carbonate (1.50 g, 10.9 mmol) and butyl iodide (666 mg, 3.6 mmol) were added to a solution of 2,4-dihydroxybenzaldehyde (500 mg, 3.6 mmol) in dimethylformamide (5 ml), and they were stirred at room temperature for 2 hours. Then methyl iodide (2.57 ml) was added to the reaction mixture, and they were stirred at room temperature for 12 hours. After the extraction with ethyl acetate followed by the silica gel chromatography, 4-butoxy-2-methoxybenzaldehyde (yield: 233 mg, 31%) was obtained in the form of a colorless oil.

reactant | Potassium carbonate | 10.9 mmol, 1.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | butyl iodide | 3.6 mmol, 666 mg | C(CCC)I | C4H9I
reactant | 2,4-dihydroxybenzaldehyde | 3.6 mmol, 500 mg | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | methyl iodide | 2.57 ml | CI | CH3I
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-butoxy-2-methoxybenzaldehyde | yield: 233 mg, 31% | C(CCC)OC1=CC(=C(C=O)C=C1)OC | C12H16O3
